US05220042
10 Grams of 1,4-dimethoxy-2,5-bis(methoxymethoxy)benzene was dissolved in 500 ml of anhydrous tetrahydrofuran and 50 ml of hexamethylphosphoric triamide. Next 7 ml of N,N,N',N'-tetramethylethylenediamine (TMEDA) was added thereto, and under argon gas stream, the reaction mixture was cooled to -78° C. Then 30 ml of n-butyllithium (1.6M solution) was added dropwise to the reaction mixture and stirred for 30 minutes. Next, 10 ml of anhydrous N,N-dimethylformamide (DMF) was added, further 0.5 ml of boron trifluoride-diethyl ether (BF3 ·Et2O) (47% ether solution) was added as the reaction accelerator to the reaction mixture, and the mixture was stirred at -78° C. for 2 hours. The temperature of the reaction mixture was elevated to room temperature, then the solvent was removed by evaporation under reduced pressure, to the residue thus obtained was added 300 ml of benzene and 300 ml of diethyl ether, then the organic layer was washed 4 times with 200 ml of water, and further washed three times with 100 ml of a saturated sodium chloride aqueous solution. After concentrated the organic layer under reduced pressure, the resultant residue was treated on a silica gel column chromatography, and eluted with 20% ethyl acetate-n-hexane solution to yield 6 g of 2,5-dimethoxy-3,6-bis(methoxymethoxy)benzaldehyde. Light yellow powdery substance.

reactant | 1,4-dimethoxy-2,5-bis(methoxymethoxy)benzene | COC1=C(C=C(C(=C1)OCOC)OC)OCOC | C12H18O6
reactant | N,N,N',N'-tetramethylethylenediamine | 7 ml | CN(CCN(C)C)C | C6H16N2
reactant | n-butyllithium | 1.6M, 30 ml | C(CCC)[Li]
reactant | boron trifluoride-diethyl ether | 0.5 ml | B(F)(F)F.CCOCC
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
solvent | hexamethylphosphoric triamide | 50 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
solvent | diethyl ether | 300 ml | C(C)OCC | C4H10O
solvent | benzene | 300 ml | C1=CC=CC=C1 | C6H6
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 2,5-dimethoxy-3,6-bis(methoxymethoxy)benzaldehyde | 6 g | COC1=C(C=O)C(=C(C=C1OCOC)OC)OCOC | C13H18O7
